US07964645B2
Preparation of rac-N-({[(2-Chloro-5-trifluoromethyl-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-4-fluoro-benzamide
Prepared in analogy to example 1.1 from 4-fluoro-hippuric acid (CA [366-79-0]) and rac-C-(2-chloro-5-trifluoromethyl-phenyl)-C-phenyl-methylamine hydrochloride (CA [13954-13-7]).

reactant | 4-fluoro-hippuric acid | FC1=CC=C(C(NCC(=O)O)=O)C=C1 | C9H8FNO3
reactant | rac-C-(2-chloro-5-trifluoromethyl-phenyl)-C-phenyl-methylamine hydrochloride | Cl.ClC1=C(C=C(C=C1)C(F)(F)F)C(C1=CC=CC=C1)N
product | rac-N-({[(2-Chloro-5-trifluoromethyl-phenyl)-phenyl-methyl]-carbamoyl}-methyl)-4-fluoro-benzamide | ClC1=C(C=C(C=C1)C(F)(F)F)C(C1=CC=CC=C1)NC(=O)CNC(C1=CC=C(C=C1)F)=O | C23H17ClF4N2O2
